US06603029B1
366 g of dimethylformamide and 165.9 g (1.2 mol) of potassium carbonate were placed in a flask, followed by dropwise addition of 122 g (1 mol) of 4-hydroxybenzaldehyde. 181.2 g (1.2 mol) of t-butyl chloroacetate were added dropwise to the mixture at a temperature of 50° C. for two hours. After the addition, the mixture was stirred for two hours at a temperature of 50° C. and then another seven hours at a temperature of 70° C. The resulting reaction mixture was washed with 122 g of toluene and 662 g of water. 100 g of the solvent was removed from the mixture by distillation under reduced pressure and then 236 g of n-heptane were added to the distillation residue to effect crystallization. The resulting crystals were collected by filtration to provide 128.4 g of 4-t-butoxycarbonylmethoxybenzaldehyde having a purity of 99.9% as white crystals. FIG. 2 is an infrared absorption spectrum of the compound. The yield was 54%.

reactant | potassium carbonate | 1.2 mol, 165.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxybenzaldehyde | 1 mol, 122 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | t-butyl chloroacetate | 1.2 mol, 181.2 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
solvent | dimethylformamide | 366 g | CN(C=O)C | C3H7NO
product | 4-t-butoxycarbonylmethoxybenzaldehyde | 128.4 g, yield was 54% | C(C)(C)(C)OC(=O)COC1=CC=C(C=O)C=C1 | C13H16O4
